US07034098B2
20.0 g (96.06 mmol) methyl (2E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoate, 16.6 g (100.9 mmol) 8-chlor-1-octanol and 27.7 g (105.7 mmol) of triphenylphosphine were dissolved in 400 ml of tetrahydrofurane. The colorless solution was subsequently cooled to 0° C. and 46.0 g (105.7 mmol) of a 40% solution of azodicarboxylic acid diethyl ester in toluene was added dropwise thereto over a period of 25 minutes. The mixture was subsequently allowed to react for 4 hours at 0° C. The reaction mixture reduced in volume by evaporation. The resulting residue was added to a mixture of methanol and water (3:2) and was then extracted with a mixture of tert.-butyl-methylether:hexane 1:1. The tert.-butyl-methylether:hexane phase was washed repeatedly with water, dried over magnesium sulfate, filtered and concentrated by rotary evaporation. The crude product was recrystallised from 2-propanol yielded 30.8 g (90%) methyl (2E)-3-{4-[(8-chloroctyl)oxy]-3-methoxyphenyl}-2-propenoate as white crystals.

reactant | methyl (2E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoate | 96.06 mmol, 20.0 g | OC1=C(C=C(C=C1)/C=C/C(=O)OC)OC | C11H12O4
reactant | 8-chlor-1-octanol | 100.9 mmol, 16.6 g | ClCCCCCCCCO | C8H17ClO
reactant | triphenylphosphine | 105.7 mmol, 27.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofurane | 400 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl (2E)-3-{4-[(8-chloroctyl)oxy]-3-methoxyphenyl}-2-propenoate | 30.8 g, 90% | ClCCCCCCCCOC1=C(C=C(C=C1)/C=C/C(=O)OC)OC | C19H27ClO4
